US07816371B2
b. Acetic acid 2-[6-(2-acetoxy-ethylamino)-5-amino-1-oxo-1H-isoquinolin-2-yl]-ethyl ester
A mixture of 2-(2-(2-acetoxyethyl)-5-nitro-1-oxo-1,2-dihydroisoquinolin-6-ylamino)ethyl acetate (350 mg, 0.00093 mol), ethanol (20 mL, 0.3 mol), ammonium chloride (496.1 mg, 0.009275 mol) and water (10 mL, 0.6 mol) was added at 85° C. Iron (207 mg, 0.00371 mol) was added in two portions five minutes apart and the reaction was stirred at that temperature for 1 hour. The reaction mixture was then poured into methylene chloride (100 mL) and the layers were separated and the organic layer was washed with brine and dried over sodium sulfate. The solvent was removed under reduced pressure and used for the next reaction without purification. MS m/z=348.5 (M+H).

reactant | 2-(2-(2-acetoxyethyl)-5-nitro-1-oxo-1,2-dihydroisoquinolin-6-ylamino)ethyl acetate | 0.00093 mol, 350 mg | C(C)(=O)OCCNC=1C(=C2C=CN(C(C2=CC1)=O)CCOC(C)=O)[N+](=O)[O-] | C17H19N3O7
reactant | ethanol | 0.3 mol, 20 mL | C(C)O | C2H6O
reactant | ammonium chloride | 0.009275 mol, 496.1 mg | [Cl-].[NH4+]
reactant | water | 0.6 mol, 10 mL | O | H2O
catalyst | Iron | 0.00371 mol, 207 mg | [Fe] | Fe
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | Acetic acid 2-[6-(2-acetoxy-ethylamino)-5-amino-1-oxo-1H-isoquinolin-2-yl]-ethyl ester | C(C)(=O)OCCNC=1C(=C2C=CN(C(C2=CC1)=O)CCOC(C)=O)N | C17H21N3O5
